US09226922B2
(S)-2-(2-(difluoromethoxy)-1-phenylethyl)isoindoline-1,3-dione (659 mg, 2.077 mmol) was dissolved in EtOH (7 ml), charged with hydrazine hydrate (1.01 ml, 20.77 mmol) and heated to 85° C. for 90 minutes. The reaction was diluted with 10 mL EtOH, filtered, and the solvents were evaporated in vacuo. The residue was purified on silica gel 2-10% MeOH/DCM to provide (S)-2-(difluoromethoxy)-1-phenylethanamine MS: [M+H]+ m/z 188.

reactant | (S)-2-(2-(difluoromethoxy)-1-phenylethyl)isoindoline-1,3-dione | 2.077 mmol, 659 mg | FC(OC[C@H](C1=CC=CC=C1)N1C(C2=CC=CC=C2C1=O)=O)F | C17H13F2NO3
reactant | hydrazine hydrate | 20.77 mmol, 1.01 ml | O.NN
solvent | EtOH | 7 ml | CCO | C2H6O
solvent | EtOH | 10 mL | CCO | C2H6O
product | (S)-2-(difluoromethoxy)-1-phenylethanamine | FC(OC[C@@H](N)C1=CC=CC=C1)F | C9H11F2NO
